US04992438
Phosphorus oxychloride (10 ml) was added to 1.5 g of 2-anilino-4-hydroxymethyl-6-methylpyrimidine and the mixture was heated under reflux for 15 minutes. After completion of the reaction, excessive phosphorus oxychloride was removed by distillation under reduced pressure. After dissolving the residue in dichloromethane, a 10% aqueous solution of sodium hydroxide was gradually added until the solution became alkaline under reflux of dichloromethane. After cooling to room temperature, the organic layer was washed with water, dried over magnesium sulfate and concentrated. The residual solid was recrystallized to obtain 1.2 g (yield: 73%) of 2-anilino-4-chloromethyl-6-methylpyrimidine having a melting point of 100°-101° C.

reactant | 2-anilino-4-hydroxymethyl-6-methylpyrimidine | 1.5 g | N(C1=CC=CC=C1)C1=NC(=CC(=N1)CO)C | C12H13N3O
reactant | Phosphorus oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-anilino-4-chloromethyl-6-methylpyrimidine | 1.2 g, yield: 73% | N(C1=CC=CC=C1)C1=NC(=CC(=N1)CCl)C | C12H12ClN3
